US07109228B2
5-Methyl-1-[2-(tetrahydro-2H-pyran-2-yloxy)ethyl]-3-(trifluoromethyl)-1H-pyrazol-4-ol
To a stirred solution of 1-(2-hydroxyethyl)-5-methyl-3-(trifluoromethyl)-1H-pyrazol-4-ol (600 mg, 2.86 mmol; Kenkyu Hokoku—Asahi Garasu Kogyo Gijutsu Shoreikai, 1988, 51, 139–49) in dichloromethane (10 ml) and ethyl acetate (4 ml) was added para-toluenesulphonic acid (27 mg, 0.14 mmol) followed by 3,4-dihydro-2H-pyran (340 μl, 3.7 mmol). The reaction mixture was stirred at room temperature for 3 hours before being concentrated under reduced pressure. The crude product mixture was purified by flash chromatography on silica gel eluting with pentane:ethyl acetate (60:40, by volume) to provide the title compound (560 mg) as white solid.

reactant | 1-(2-hydroxyethyl)-5-methyl-3-(trifluoromethyl)-1H-pyrazol-4-ol | 2.86 mmol, 600 mg | OCCN1N=C(C(=C1C)O)C(F)(F)F | C7H9F3N2O2
reactant | 3,4-dihydro-2H-pyran | 3.7 mmol, 340 μl | O1CCCC=C1 | C5H8O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 4 ml | C(C)(=O)OCC | C4H8O2
catalyst | para-toluenesulphonic acid | 0.14 mmol, 27 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 5-Methyl-1-[2-(tetrahydro-2H-pyran-2-yloxy)ethyl]-3-(trifluoromethyl)-1H-pyrazol-4-ol | 560 mg | CC1=C(C(=NN1CCOC1OCCCC1)C(F)(F)F)O | C12H17F3N2O3
